US06858633B1
2-(4′-Amino-3′-chlorophenyl)benzothiazole Lysyl Amide Dihydrochloride Salt (Iaa)
The title compound was prepared using the method of Example 22 but with 2-(4′-amino-3′-chlorophenyl)benzothiazole instead of 2-(4′-aminophenyl)-benzothiazole and BOC protected lysine instead of BOC protected alanine.

reactant | 2-(4′-amino-3′-chlorophenyl)benzothiazole | NC1=C(C=C(C=C1)C=1SC2=C(N1)C=CC=C2)Cl | C13H9ClN2S
reactant | lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | alanine | N[C@@H](C)C(=O)O | C3H7NO2
product | 2-(4′-Amino-3′-chlorophenyl)benzothiazole Lysyl Amide Dihydrochloride Salt | Cl.Cl.N[C@@H](CCCCN)C(=O)[NH-].NC1=C(C=C(C=C1)C=1SC2=C(N1)C=CC=C2)Cl | InChI=1S/C13H9ClN2S.C6H15N3O.2ClH/c14-9-7-8(5-6-10(9)15)13-16-11-3-1-2-4-12(11)17-13;7-4-2-1-3-5(8)6(9)10;;/h1-7H,15H2;5H,1-4,7-8H2,(H2,9,10);2*1H/p-1/t;5-;;/m.0../s1
